US04933355
2-Octylaminothiazol-4-ylmethanol
The reaction described in preparabion 15 was repeated, but using 1.5 g of 2-octylaminothiazol-4-carboxylate, 0.2 g of lithium aluminum hydride and 30 ml of tetrahydrofuran, giving the title compound as a pale yellow oil.

reactant | 2-octylaminothiazol-4-carboxylate | 1.5 g | C(CCCCCCC)NC=1SC=C(N1)C(=O)[O-]
reactant | lithium aluminum hydride | 0.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-Octylaminothiazol-4-ylmethanol | C(CCCCCCC)NC=1SC=C(N1)CO | C12H22N2OS
